US05840732
ii) Synthesis of 5-(piperidin-1-yl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione dihydrochloride
To a solution of 220 mg (0.526 mmol) of 5-(piperidin-1-yl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-thiazolidine-2,4-dione in 10 ml of methanol, concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 218 mg (56.2%, white powder) of the desired product.

reactant | 5-(piperidin-1-yl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]-thiazolidine-2,4-dione | 0.526 mmol, 220 mg | N1(CCCCC1)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C20H24N4O2S2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 5-(piperidin-1-yl)methylene-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione dihydrochloride | Cl.Cl.N1(CCCCC1)C=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C20H24N4O2S2.2ClH/c25-19-16(15-22-10-2-1-3-11-22)28-20(26)24(19)12-4-5-14-27-18-8-6-7-17-21-9-13-23(17)18;;/h6-9,13,15H,1-5,10-12,14H2;2*1H
